US05332807
Preparation of 2-(R)-hexyl-3-(R)-hydroxy-4-methyl-4-hydroxymethylbutyrolactone
To a 100 ml round bottom flask was introduced 340 mg (0.91 mmol) of 3-(1-oxo-2-(R)-hexyl-3-(R)-hydroxy-4-methyl-4-pentenyl)-4-(R)-(phenylmethyl)-2-oxazolidinone, to which was added 14 ml THF, 0.36 ml water, and 532 mg 4-methylmorpholine N-oxide (4.55 mmol, 5 eq.). The reaction was stirred at room temperature and 0.36 ml of 0.25M OsO4 in THF was added dropwise. After 1 hour, the reaction was quenched with 2 ml of 20% aq. NaHSO3, added to 30 ml of ethyl acetate and extracted twice with 10 ml 20% aq. NaHSO3 then with 10 ml water. The organic layer was separated, dried over MgSO4, and the solvent was removed under vacuum. A 400 MHz proton NMR of the crude reaction product revealed that a mixture of diastereomers at C-4 was formed in about an 8 to 1 ratio, with the stereochemistry of the major product uncertain. The residue was taken up in 60% hexane/ethyl acetate and chromatographed on silica gel using the same solvent mixture. The two diastereomers and the chiral auxilliary proved to be difficult to cleanly separate from each other by chromatography: the minor diastereomer elutes first, followed by the major diastereomer, followed by the chiral auxilliary. Careful chromatography afforded fractions enriched in each product. The total mass of the three products combined was 318 mg (86%).

reactant | 3-(1-oxo-2-(R)-hexyl-3-(R)-hydroxy-4-methyl-4-pentenyl)-4-(R)-(phenylmethyl)-2-oxazolidinone | 0.91 mmol, 340 mg | O=C([C@@H]([C@H](C(=C)C)O)CCCCCC)N1C(OC[C@H]1CC1=CC=CC=C1)=O | C22H31NO4
reactant | water | 0.36 ml | O | H2O
reactant | 4-methylmorpholine N-oxide | 4.55 mmol, 532 mg, 5 eq. | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | THF | C1CCOC1 | C4H8O
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
catalyst | OsO4 | 0.25M, 0.36 ml | O=[Os](=O)(=O)=O
solvent | THF | 14 ml | C1CCOC1 | C4H8O
product | 2-(R)-hexyl-3-(R)-hydroxy-4-methyl-4-hydroxymethylbutyrolactone | C(CCCCC)[C@H]1C(=O)OC([C@@H]1O)(CO)C | C12H22O4
